US05430027
2-Chloro-N-cyclopentyloxyadenosine
The title compound was prepared according to method A as described in example 6 by reacting O-cyclopentylhydroxylamine (prepared by the overall procedure described in example 5) (0.78 g, 5.67 mmol) with 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (3.0 g, 4.74 mmol), followed by debenzoylation of the purified product using methanolic ammonia to provide the title 2-chloro-N-cyclopentyloxyadenosine (0.11 g) (after column chromatography) as a solid, mp 116°-119° C., 1H NMR (DMSO-d6)γ 1.50-1.80 (8H, m, --CH2CH2CH2CH2 --), 3.52-3.58 (1H, m, H-5'a), 3.63-3.70 (1H, m, H-5'b), 3.94 (1H, q, H-4'), 4.13 (1H, q, H-3'), 4.51 (1H, q, H-2'), 4.57 (1H, br m,--OCH--), 5.06 (1H, t, 5'-- OH), 5.22, 5.50 (2H, 2d, 2'-and 3'--OH), 5.86 (1H, d, H-1'), 8.46 (1H, s, H-8), 11.40 (1H, s, N-H).

reactant | O-cyclopentylhydroxylamine | C1(CCCC1)ON | C5H11NO
reactant | 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 4.74 mmol, 3.0 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | ammonia | N | H3N
product | 2-chloro-N-cyclopentyloxyadenosine | 0.11 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NOC1CCCC1 | C15H20ClN5O5
